US04931585
heating the calcium salt of imino-diacetic acid with concentrated hydrochloric acid in a molar ratio of from 2-3 to 1 at a temperature between 50° and 100° C. to form imino-diacetic acid HCl;

reactant | calcium | [Ca] | Ca
reactant | imino-diacetic acid | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | hydrochloric acid | Cl | ClH
product | imino-diacetic acid HCl | Cl.N(CC(=O)O)CC(=O)O | InChI=1S/C4H7NO4.ClH/c6-3(7)1-5-2-4(8)9;/h5H,1-2H2,(H,6,7)(H,8,9);1H
